US04255581
Pivaloyloxymethyl 2-chloro-3-pyridinecarboxylate
Into a suspension of 2-chloro-3-pyridinecarboxylic acid (23.7 g) in 500 ml of acetone, triethylamine (30.7 ml) is added. After 30 minutes of stirring, pivaloyloxymethyl chloride (22.5 ml) is poured into the reaction mixture, and the resulting mixture heated to reflux for 2 hours. The mixture is then cooled to a temperature of 15°-20° C., and then poured into 1000 ml of cooled water. The resulting mixture is then extracted with methylene chloride (2×100 ml), and the water layer discarded. To the remaining organic extract, 10 g of anhydrous magnesium sulfate is added and then separated by filtration. The organic extract is distilled at normal pressures to separate methylene chloride. When all methylene chloride is distilled off, the distillation is continued under vacuum (0.17 mm Hg) to separate the desired product compound. The distilled product fraction separates at 131°-133° C., and is pivaloyloxymethyl 2-chloro-3-pyridine-carboxylate. Yield: 21.8 g (53.5% of theory).

reactant | 2-chloro-3-pyridinecarboxylic acid | 23.7 g | ClC1=NC=CC=C1C(=O)O | C6H4ClNO2
reactant | pivaloyloxymethyl chloride | 22.5 ml | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | 1000 ml | O | H2O
solvent | acetone | 500 ml | CC(=O)C | C3H6O
solvent | triethylamine | 30.7 ml | C(C)N(CC)CC | C6H15N
product | Pivaloyloxymethyl 2-chloro-3-pyridinecarboxylate | ClC1=NC=CC=C1C(=O)OCOC(C(C)(C)C)=O | C12H14ClNO4
